US09382188B2
D) 2′-fluoro-5′-methoxy-2-(tetrahydro-2H-pyran-4-yl)biphenyl-4-ol
To a solution of 2-(3,6-dihydro-2H-pyran-4-yl)-2′-fluoro-5′-methoxybiphenyl-4-ol (138 mg) in methanol (3.0 mL) was added 10% palladium-carbon (55 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 1 hr. The mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was directly used for the next step.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-2′-fluoro-5′-methoxybiphenyl-4-ol | 138 mg | O1CCC(=CC1)C1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F | C18H17FO3
solvent | methanol | 3.0 mL | CO | CH4O
catalyst | palladium-carbon | 55 mg | [C].[Pd]
product | 2′-fluoro-5′-methoxy-2-(tetrahydro-2H-pyran-4-yl)biphenyl-4-ol | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C1CCOCC1 | C18H19FO3
